US03952024
2,5-Dimethyl-3,6-dipropyl-pyrazine was prepared by first forming 3-oximino-2-hexanone by reacting 2-hexanone with nitrosyl chloride according to the method of BOUVEAULT, Bull. [3] 31, 1163 (1904). The autocondensation of two molecules of the imino-ketone in the presence of zinc and acetic acid [according to the method described in Chimia 11, 310 (1957)] yielded 2,5-dimethyl-3,6-dipropyl-pyrazine which had a b.p. of 109°-110°C./10 mm. Hg. 5d. 2,5-Dimethyl-3,6-diisopropyl-pyrazine was prepared by first forming 4-methyl-3-oximino-2-pentanone by reacting 4-methyl-2-pentanone with nitrosyl chloride according to the method of BOUVEAULT, Bull. [3] 31, 1163 (1904). The autocondensation of two moles of the imino-ketone in the presence of zinc and acetic acid [according to the method described in Chimia 11, 310 (1957)] yielded 2,5-Dimethyl-3,6-diisopropyl-pyrazine which had a b.p. of 91°C./8 mm. Hg.

reactant | 3-oximino-2-hexanone | N(O)=C(C(C)=O)CCC | C6H11NO2
reactant | 2-hexanone | CC(CCCC)=O | C6H12O
reactant | nitrosyl chloride | N(=O)Cl | ClNO
reactant | imino-ketone | N=C=O | CHNO
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,5-dimethyl-3,6-dipropyl-pyrazine | CC1=NC(=C(N=C1CCC)C)CCC | C12H20N2
